US06593472B2
d) N-(3,5-Bis-trifluoromethyl-benzyl)-N-methyl-6-morpholin-4-yl-4-o-tolyl-nicotinamide
To a solution of 0.27 g (0.87 mmol) N-methyl-6-morpholin-4-yl-4-o-tolyl-nicotinamide in 15 ml tetrahydrofuran, 1.12 ml of a 1 M solution (1.12 mmol) of potassium hexamethyldisilazide in tetrahydrofuran was added at 0° C. After 30 min, 0.16 ml (0.87 mmol) 3,5-bis(trifluoromethyl)benzyl bromide were added dropwise and the reaction mixture was allowed to warm to room temperature over night. Quenching with water was followed by extraction with ethyl acetate. The combined organic extracts were dried with sodium sulfate and concentrated. Column chromatography gave 0.20 g (44%) of the title compound as a white solid.

reactant | N-methyl-6-morpholin-4-yl-4-o-tolyl-nicotinamide | 0.87 mmol, 0.27 g | CNC(C1=CN=C(C=C1C1=C(C=CC=C1)C)N1CCOCC1)=O | C18H21N3O2
reactant | potassium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | 0.87 mmol, 0.16 ml | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-(3,5-Bis-trifluoromethyl-benzyl)-N-methyl-6-morpholin-4-yl-4-o-tolyl-nicotinamide | 0.20 g, 44% | FC(C=1C=C(CN(C(C2=CN=C(C=C2C2=C(C=CC=C2)C)N2CCOCC2)=O)C)C=C(C1)C(F)(F)F)(F)F | C27H25F6N3O2
